US05972972
B. Preparation of ethyl 3-(4-pyridyl)acrylate
3-(4-Pyridyl)acrylic acid (16.18 g, 0.1085 mol) was slurried in 200 ml of absolute ethanol. Concentrated sulfuric acid (8 ml) was added and the reaction was refluxed for 3 hours. After cooling, the solvent was evaporated and the residue was cautiously neutralized with saturated sodium bicarbonate solution. The resulting mixture was then extracted twice with diethyl ether. The organic extracts were washed with water and then brine, dried over MgSO4 and concentrated to afford 17.88 g (93% yield) of the subtitle compound.

reactant | 3-(4-Pyridyl)acrylic acid | 0.1085 mol, 16.18 g | N1=CC=C(C=C1)C=CC(=O)O | C8H7NO2
reactant | sulfuric acid | 8 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 200 ml | C(C)O | C2H6O
product | ethyl 3-(4-pyridyl)acrylate | 17.88 g, 93% yield | N1=CC=C(C=C1)C=CC(=O)OCC | C10H11NO2
